US04447618
A stirred slurry containing 10.3 g (0.05 mol) of 2-thioxo-3-benzothiazolineacetonitrile and 150 ml of 30% sulfuric acid (by volume) was heated at reflux for 2 hours. After cooling to 25° C., 800 ml of water was added and stirring was continued for 30 minutes at 25°-30° C. The solid was collected by filtration, washed with water until neutral to litmus, and air-dried at 25°-30° C. The product, 2-thioxo-3(2H)-benzothiazoleacetic acid was obtained in 90% yield , m.p. 187°-189° C. After recrystallization from 1,2-dichloroethane the crystals melted at 192°-193° C.

reactant | 2-thioxo-3-benzothiazolineacetonitrile | 0.05 mol, 10.3 g | S=C1SC2=C(N1CC#N)C=CC=C2 | C9H6N2S2
reactant | sulfuric acid | 150 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | 800 ml | O | H2O
product | 2-thioxo-3(2H)-benzothiazoleacetic acid | 90% yield | S=C1SC2=C(N1CC(=O)O)C=CC=C2 | C9H7NO2S2
